* Magnetic model made with OpenMagnetics
* My custom magnetic

.subckt My_custom_magnetic P1+ P1-
Lladder1_0 P1+ Node_Lladder_1_0 0.000000149828
Rladder1_0 Node_Lladder_1_0 Node_R_Lmag_1 2.182116090970
Lladder1_2 P1+ Node_Lladder_1_2 0.000026980704
Rladder1_2 Node_Lladder_1_2 Node_Lladder_1_0 0.128758057998
Lladder1_4 P1+ Node_Lladder_1_4 0.000000030528
Rladder1_4 Node_Lladder_1_4 Node_Lladder_1_2 1.987893911994
Lladder1_6 P1+ Node_Lladder_1_6 0.000000003596
Rladder1_6 Node_Lladder_1_6 Node_Lladder_1_4 0.106848144023
Lladder1_8 P1+ Node_Lladder_1_8 0.000285862223
Rladder1_8 Node_Lladder_1_8 Node_Lladder_1_6 0.099723822777
Rdc1 P1+ Node_R_Lmag_1 {Rdc_1_Value}
Lmag_1 P1- Node_R_Lmag_1 {NumberTurns_1**2*Permeance}

.param MagnetizingInductance_Value=0.000110
.param Permeance=MagnetizingInductance_Value/NumberTurns_1**2
.param Rdc_1_Value=0.045715
.param NumberTurns_1=17

.ends My_custom_magnetic